8
R0100 1 0 1
R0203 2 3 1
R0405 4 5 1.88
L0400 4 0 1
C0506 5 6 0.31
C0406 4 6 1
G0507 5 7 8 1 1
E0201 2 1 5 7 1
H0801 8 1 3 1 0 -0.7 0 0.4 0 -0.2 0 0.027
VX 7 0 DC 0
V0600 6 0 PULSE 0 1 0 0 0 10000 20000 1
.TRAN 1000 10E-3 BE 1
